US07741327B2
A solution of 2-[4-(2,6-difluoro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-3-(tetrahydro-pyran-4-yl)-propionic acid (155 mg, 0.42 mmol) in dichloromethane (10 mL) was treated with bromotripyrrolidinophosphonium hexafluorophosphate (240 mg, 0.051 mmol), N,N-diisopropylethylamine (165 mg, 0.127 mmol) and 6-aminonicotinic acid methyl ester (80 mg, 0.51 mmol). The reaction mixture was stirred at 25° C. for 18 h under nitrogen. The reaction mixture was diluted with dichloromethane, washed with 2N aqueous hydrochloric acid, saturated sodium bicarbonate solution, a saturated sodium chloride solution and dried over magnesium sulfate. The organic layer was concentrated, and the crude product was purified by ISCO flash chromatography (Teledyne Isco RediSep Flash Column 12 g; 0% to 100% ethyl acetate/hexanes) to afford 6-[2-[4-(2,6-difluoro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-3-(tetrahydro-pyran-4-yl)-propionylamino]-nicotinic acid methyl ester (110 mg, 55%), as an off-white solid: LR-ES-MS m/z calculated for C25H25F2N3O6 [M]+ 501, observed [M+H]+ 502; 1H NMR (300 MHz, DMSO-d6) δ ppm 1.20-1.95 (m, 7H) 3.11-3.32 (m, 2H) 3.70-3.92 (m, 2H) 3.86 (s, 3H) 4.37 (d, J=18.1 Hz, 1H) 4.64 (d, J=18.1 Hz, 1H) 4.98-5.12 (m, 2H) 7.30-7.51 (m, 3H) 8.13-8.20 (m, 1H) 8.28 (dd, J=8.8, 2.4 Hz, 1H) 8.87 (d, J=2.4 Hz, 1H) 11.33 (s, 1H).

reactant | 2-[4-(2,6-difluoro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-3-(tetrahydro-pyran-4-yl)-propionic acid | 0.42 mmol, 155 mg | FC1=C(OC2=CC(N(C2)C(C(=O)O)CC2CCOCC2)=O)C(=CC=C1)F | C18H19F2NO5
reactant | bromotripyrrolidinophosphonium hexafluorophosphate | 0.051 mmol, 240 mg | F[P-](F)(F)(F)(F)F.Br[P+](N1CCCC1)(N1CCCC1)N1CCCC1
reactant | N,N-diisopropylethylamine | 0.127 mmol, 165 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 6-aminonicotinic acid methyl ester | 0.51 mmol, 80 mg | COC(C1=CN=C(C=C1)N)=O | C7H8N2O2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 6-[2-[4-(2,6-difluoro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-3-(tetrahydro-pyran-4-yl)-propionylamino]-nicotinic acid methyl ester | 110 mg, 55% | COC(C1=CN=C(C=C1)NC(C(CC1CCOCC1)N1C(C=C(C1)OC1=C(C=CC=C1F)F)=O)=O)=O | C25H25F2N3O6
